US05569646
To a susupension of N-hydroxysuccinimide (0.56 g) and 6-heptyloxy-2-naphthoic acid (1.39 g) in methylene chloride (42 ml) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (1.21 g) and stirred for 3 hours at room temparature. The reaction mixture was added to water (100 ml). The organic layer was separated and dried over magnesium sulfate. Magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give succinimido 6-heptyloxy-2-naphthoate (1.48 g).

reactant | N-hydroxysuccinimide | 0.56 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 6-heptyloxy-2-naphthoic acid | 1.39 g | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)O | C18H22O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.21 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | 100 ml | O | H2O
solvent | methylene chloride | 42 ml | C(Cl)Cl | CH2Cl2
product | succinimido 6-heptyloxy-2-naphthoate | 1.48 g | C(CCCCCC)OC=1C=C2C=CC(=CC2=CC1)C(=O)ON1C(CCC1=O)=O | C22H25NO5
